US06831175B2
2-Fluoro-4-vinylpyridine
A mixture of 2-fluoro-4-iodopyridine (2.23 g, 10.0 mmol), tributyl vinyl tin (3.8 g, 12 mmol), and Pd2Cl2(PPh3)2 (703 mg, 1.0 mmol) in dioxane (20 mL) was heated under nitrogen at 80° C. overnight. After cooled, ethyl acetate (40 ml) and saturated KF aqueous solution were added to the reaction mixture. The mixture was stirred for 30 min. The organic layer was separated and washed with water, dried (MgSO4), and concentrated. The resulting residue was purified by flash column chromatography eluting with hexane/ethyl acetate (20:1) to provide the title compound (463 mg, 38%). 1HNMR (500 MHz, CDCl3) δ ppm 5.55 (d, J=10.92 Hz, 1 H) 5.99 (d, J=17.47 Hz, 1 H) 6.67 (dd, J=17.47, 10.61 Hz, 1 H) 6.88 (m, 1 H) 7.17 (dt, J=5.30, 1.56 Hz, 1 H) 8.16 (d, J=5.30 Hz, 1 H).

reactant | 2-fluoro-4-iodopyridine | 10.0 mmol, 2.23 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | tributyl vinyl tin | 12 mmol, 3.8 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | KF | [F-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Fluoro-4-vinylpyridine | 463 mg, 38% | FC1=NC=CC(=C1)C=C | C7H6FN
